US05672697
1-[2-Deoxy-5-O-(4,4'-dimethoxytrityl)-2-fluoro-β-D-arabinofuranosyl]-N4 -benzoylcytosine (52)
This compound is prepared from 1-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-N4 -benzoylcytosine by the same procedure used for the preparation of N4 -benzoyl-5'-O-(4,4'-dimethoxytrityl)-2'-deoxycytidine.

reactant | 1-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-N4 -benzoylcytosine | F[C@@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(NC(C2=CC=CC=C2)=O)C=C1 | C16H16FN3O5
reactant | N4 -benzoyl-5'-O-(4,4'-dimethoxytrityl)-2'-deoxycytidine | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=C(C=C3)OC)(C3=CC=C(C=C3)OC)C3=CC=CC=C3)O2)C=C1)=O | C37H35N3O7
product | 1-[2-Deoxy-5-O-(4,4'-dimethoxytrityl)-2-fluoro-β-D-arabinofuranosyl]-N4 -benzoylcytosine | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@@H]([C@@H](O2)N2C(=O)N=C(NC(C3=CC=CC=C3)=O)C=C2)F)O)C=C1 | C37H34FN3O7
